US06852726B2
1-(4,5-Dihydro-1H-imidazol-2-ylmethyl)-3-methanesulfonyl-1H-indol-5-ylamine, (mp 215-217° C.) was prepared by reduction of the nitro group of compound 1-(4,5-dihydro-1H-imidazol-2-ylmethyl)-3-methanesulfonyl-5-nitro-1H-indole, with TiCl3 in aqueous acetonitrile.

reactant | 1-(4,5-dihydro-1H-imidazol-2-ylmethyl)-3-methanesulfonyl-5-nitro-1H-indole | N1C(=NCC1)CN1C=C(C2=CC(=CC=C12)[N+](=O)[O-])S(=O)(=O)C | C13H14N4O4S
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(4,5-Dihydro-1H-imidazol-2-ylmethyl)-3-methanesulfonyl-1H-indol-5-ylamine | N1C(=NCC1)CN1C=C(C2=CC(=CC=C12)N)S(=O)(=O)C | C13H16N4O2S
